US04880806
To a solution of 2-bromo-4,5-difluoroaniline (100 g) and dimethyl sulfide (40 ml) in anhydrous dichloromethane (1.2 liter) is added gradually N-chlorosuccinimide (90 g) at below 15° C., and thereafter is further added in portions triethylamine (93 ml) at 15° C. After the addition, the mixture is refluxed for 7 hours. After cooling, 10% aqueous sodium hydroxide (one liter) is added to the reaction mixture, and the mixture is extracted with dichloromethane. The extract is dried over magnesium sulfate and concentrated, and the resulting residue is purified by silica gel column chromatography (solvent, dichloromethane:n-hexane=1:2). The product is recrystallized from n-hexane to give 6-bromo-3,4-difluoro-2-methylthiomethylaniline (52 g) as a white crystal, m.p. 60°-61° C.

reactant | 2-bromo-4,5-difluoroaniline | 100 g | BrC1=C(N)C=C(C(=C1)F)F | C6H4BrF2N
reactant | dimethyl sulfide | 40 ml | CSC | C2H6S
reactant | N-chlorosuccinimide | 90 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium hydroxide | one liter | [OH-].[Na+]
solvent | dichloromethane | 1.2 liter | ClCCl | CH2Cl2
solvent | triethylamine | 93 ml | C(C)N(CC)CC | C6H15N
product | 6-bromo-3,4-difluoro-2-methylthiomethylaniline | 52 g | BrC1=CC(=C(C(=C1N)CSC)F)F | C8H8BrF2NS
